US06673799B1
2-Aminomethyl-6-chloropyridine
A 3.3 g portion of Raney nickel was suspended in 30 ml of ethanol, and the suspension was mixed with 1.42 g of 2-cyano-6-chloropyridine and 10 ml of 28% aqueous ammonia and stirred at room temperature for 4 hours in a stream of hydrogen. The reaction mixture was filtered through celite and the filtrate was concentrated to obtain 1.38 g of the title compound as a mixture.

reactant | 2-cyano-6-chloropyridine | 1.42 g | C(#N)C1=NC(=CC=C1)Cl | C6H3ClN2
reactant | ammonia | 10 ml | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Aminomethyl-6-chloropyridine | 1.38 g | NCC1=NC(=CC=C1)Cl | C6H7ClN2
